US07601716B2
1-(2-Chlorobenzenesulfonyl)-7-[6-(4-methylpiperazin-1-yl)pyridin-3-yl]-1,2,3,4 tetrahydropyrido[2,3-b]pyrazine
1-(2-Chlorobenzenesulfonyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (44 mg) was reacted with 1-methyl-4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine as in General Procedure 4A to give the title compound as a yellow solid (41% yield). M.p. 164-165° C., LCMS: m/z=486.79 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.36 (s, 3H), 2.54 (t, J=5.1 Hz, 4H), 3.39-3.42 (m, 2H), 3.60 (t, J=4.5 Hz, 4H), 3.88 (t, J=4.5 Hz, 2H), 5.17 (bs, 1H), 6.69 (d, J=8.8 Hz, 1H), 7.39-7.45 (m, 1H), 7.51-7.56 (m, 3H), 7.73 (s, 1H), 8.01 (d, J=1.0 Hz, 1H), 8.13 (dd, J=8.6 Hz, 1.0 Hz, 1H), 8.27 (d, J=2.6 Hz, 1H).

reactant | 1-(2-Chlorobenzenesulfonyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 44 mg | ClC1=C(C=CC=C1)S(=O)(=O)N1C2=C(NCC1)N=CC(=C2)I | C13H11ClIN3O2S
reactant | 1-methyl-4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine | CN1CCN(CC1)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H26BN3O2
product | 1-(2-Chlorobenzenesulfonyl)-7-[6-(4-methylpiperazin-1-yl)pyridin-3-yl]-1,2,3,4 tetrahydropyrido[2,3-b]pyrazine | 41% yield | ClC1=C(C=CC=C1)S(=O)(=O)N1C2=C(NCC1)N=CC(=C2)C=2C=NC(=CC2)N2CCN(CC2)C | C23H25ClN6O2S
